US05554607
1-Ethyl-3-(2-methylphenyl)-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 28 using 17.7 g of 2-ethyl-6-methylphenyl-isothiocyanate, 18.4 g of N-ethyl glycine, 20.2 g of triethyl amine, and 300 mL of chloroform. The residue was further purified by flash chromatography on silica gel (20% ethyl acetate in hexane).The title compound was obtained (8.6 g) as a light peach solid, m.p. 82°-84° C. Anal. Calcd. for. C14H18N2O S: C, 64.09; H, 6.92; N, 10.68. Found: C, 64.27; H, 7.04; N, 10.60. Mass spectrum (EI, M.+) m/z 262.

reactant | 2-ethyl-6-methylphenyl-isothiocyanate | 17.7 g | C(C)C1=C(C(=CC=C1)C)N=C=S | C10H11NS
reactant | N-ethyl glycine | 18.4 g | C(C)NCC(=O)O | C4H9NO2
reactant | triethyl amine | 20.2 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Ethyl-3-(2-methylphenyl)-2-thioxo-imidazolidin-4-one | C(C)N1C(N(C(C1)=O)C1=C(C=CC=C1)C)=S | C12H14N2OS
